US07122543B2
N-[3-(3.4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-4-trifluoromethylaniline
To a solution of 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid (18 mg, 0.0424 mmol) in methylene chloride (3 ml) were added 4-trifluoromethylaniline (10.2 mg, 0.0633 mmol), triethylamine (8.6 mg, 0.0851 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (21.5 mg, 0.1272 mmol) followed by stirring at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (17 mg, 0.0300 mmol, 71%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid | 0.0424 mmol, 18 mg | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | 4-trifluoromethylaniline | 0.0633 mmol, 10.2 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 0.0851 mmol, 8.6 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.1272 mmol, 21.5 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(3.4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-4-trifluoromethylaniline | 0.0300 mmol, 17 mg, 71% | COC=1C(=C(CC=2C(=C(C(=O)NC3=CC=C(C=C3)C(F)(F)F)C=CC2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C31H29F3N2O5
